US07476666B2
Step 3: 3-Benzyloxy-5-(4-fluorobenzyl)-N-[(2-morpholin-4-yl)ethyl]-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide
The title compound was prepared as the trifluoroacetate salt from 3-benzyloxy-5-(4-fluorobenzyl)-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid using a procedure similar to that found in Example 15, Step 1, except that 4-(2-aminoethyl)morpholine was used in place of 1,2,3,4-tetrahydroisoquinoline. 1H NMR (400 MHz, CDCl3) δ 7.70-7.67 (t, 1H), 7.48-7.46 (m, 2H), 7.36-7.27 (m, 5H), 7.08-7.04 (m, 2H), 5.46 (s, 2H), 5.30 (s, 2H), 4.74 (s, 2H), 4.28-4.25 (t, 2H), 3.96 (br s, 4H), 3.78-3.68 (m, 4H), 3.61-3.58 (t, 2H), 3.30-3.26 (t, 2H); ES MS (M+1)=508.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 3-benzyloxy-5-(4-fluorobenzyl)-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)CC2=CC=C(C=C2)F)=O)C(=O)O | C21H18FN3O4
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 3-Benzyloxy-5-(4-fluorobenzyl)-N-[(2-morpholin-4-yl)ethyl]-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)CC2=CC=C(C=C2)F)=O)C(=O)NCCN2CCOCC2 | C27H30FN5O4
